US04904665
Ethyl 4-(2-benzylaminophenyl)-2-methyl-5-oxo-1,4,5,7-tetrahydrofuro[3,4-b]pyridine-3-carboxylate
3.5 g (10 mmol) of ethyl 4-(2-aminophenyl)-2-methyl-5-oxo-1,4,5,7-tetrahydrofuro[3,4-b]pyridine-3-carboxylate hydrochloride and 1.4 ml (11 mmol) of benzyl bromide are dissolved in 50 ml of absolute acetone, 1.4 g of potassium carbonate are added, and the mixture is stirred overnight at room temperature. The mixture is concentrated, water is added, and the product is filtered off under suction and recrystallized from methanol.

reactant | ethyl 4-(2-aminophenyl)-2-methyl-5-oxo-1,4,5,7-tetrahydrofuro[3,4-b]pyridine-3-carboxylate hydrochloride | 10 mmol, 3.5 g | Cl.NC1=C(C=CC=C1)C1C2=C(NC(=C1C(=O)OCC)C)COC2=O
reactant | benzyl bromide | 11 mmol, 1.4 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | Ethyl 4-(2-benzylaminophenyl)-2-methyl-5-oxo-1,4,5,7-tetrahydrofuro[3,4-b]pyridine-3-carboxylate | C(C1=CC=CC=C1)NC1=C(C=CC=C1)C1C2=C(NC(=C1C(=O)OCC)C)COC2=O | C24H24N2O4
